US06498165B1
2-[3,4-Methylenedioxybenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with piperonylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 346.2 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.61 (s, 1H); 8.42 (br s, 1H); 8.11 (br s, 1H); 7.86 (m, 1H); 7.38 (m, 2H); 6.89 (m, 2H); 6.83 (m, 2H); 5.97 (s, 2H); 5.79 (br s, 1H); 4.65 (d, J=5.7 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | piperonylamine | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
product | 2-[3,4-Methylenedioxybenzylamino]-4-[benzimidazol-1-yl]pyrimidine | C1OC=2C=C(CNC3=NC=CC(=N3)N3C=NC4=C3C=CC=C4)C=CC2O1 | C19H15N5O2
